US09120804B2
(3,5-dimethoxy-phenyl)-[8-(4-methyl-2-phenyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine (“C55”)
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine and 1-methyl-3-phenyl-piperazine are coupled according general procedure 3. The intermediate is isolated and Buchwald Hartwig Amination following general procedure 2 with 1-chloro-3,5-dimethoxy-benzene gives the title compound as a solid.

reactant | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
reactant | 1-methyl-3-phenyl-piperazine | CN1CC(NCC1)C1=CC=CC=C1 | C11H16N2
reactant | 1-chloro-3,5-dimethoxy-benzene | ClC1=CC(=CC(=C1)OC)OC | C8H9ClO2
product | (3,5-dimethoxy-phenyl)-[8-(4-methyl-2-phenyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2C(CN(CC2)C)C2=CC=CC=C2)=N1 | C24H27N7O2
